Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___
 
Chief Complaint:
rash, fevers

 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ with history of GERD, recent gluteal abscess who presents 
with 4 day history of fever, nausea/diarrhea, rash, and 
generalized myalgias. 

He reports that he presented to the ED on ___ for a left 
buttock abscess that was drained (previously drained in ___ in 
___, and was started on Bactrim (last day ___, stopped 
taking on ___ He reports that abscess site has improved, 
denies any pain in the area. He had also presented to the ED on 
___ for neck pain with cold symptoms after a flight from 
___ and was discharged with referral to sports medicine.

Over the past 4 days, he noticed development of a rash on his 
forearms that then spread to his chest/torso, involved 
everywhere but his palms/soles/face. Rash is not pruritic or 
painful, no prior history of similar rash, no oral involvement. 

Since ___ reports increasing fatigue, body aches, sore 
throat w/ difficulty swallowing, rhinorrhea, nausea. He had 
episode of emesis on day prior to admission but none since then. 
He had episodes of diarrhea over past 2 days x 4 episodes. He 
reports a 5 lb weight loss over the past few days. Reports 
sensation of nausea and difficulty swallowing (although able to 
swallow) with liquids/solids with regurgitation since ___. 
This has since resolved with anti-nausea medications. 

He does report fever/chills over the past few days. He notes 
that this morning he noticed significant mucosal bleeding with 
brushing his teeth. He has had mild bleeding with brushing his 
teeth in his left upper molars over the past  few months but has 
never experienced bleeding like this. No history of epistaxis or 
easy bruising. He does report intermittent night sweats, which 
is improved with opening the window of his room. 

He denies any sick contacts. Lives with 2 roommates who are 
asymptomatic. He reports recent travel to ___ (rural area 
around a lot of farm animals) in ___ and afterwards had 
episode of gastroenteritis x 2 d at the end of ___. He lives 
in ___, traveled to ___ (___). No tick 
exposures, bites, no pets here in ___. 

In the ED, initial vitals:  100.1 87 127/77 20 99% RA
Labs were significant for  
- 3.0 > 15.3/44 < 77
--- N55.7, ANC 1.64, L 31.9. Smear with metas, myelos, and pros
- 135 | 103 | 11 
  ---------------< 135
  4.2 | 20 | 0.8
- ALT 61 -> 59
- AST 80 -> 60
- T. bili 0.2, AP 60, LDH 235

Imaging showed  
- CXR:  No acute cardiopulmonary process. 
In the ED, pt received: 
- ketorolac 15 mg
- prednisone 50
- Benadryl 25
- 1L NS, 1L LR
Vitals prior to transfer:  97.5 68 110/70 16 97% RA
Currently, feels improved. 
 

 
Past Medical History:
GERD
Appendectomy
Hiatal hernia 
 
Social History:
___
Family History:
- GF: ?throat cancer
- Mom: HTN, DM
- Father: HTN
 
Physical ___:
ADMISSION PHYSICAL EXAM:  
VS:  98.4 PO 120 / 78 79 18 100 Ra 
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. No 
oral ulcerations. 
NECK: Supple without LAD  
PULM: CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal. 
SKIN: diffuse macular blanching erythematous confluent rash with 
involvement of torso and upper extremities. Mild involvement of 
lower extrmeities now improving. No bruising. 

DISCHARGE PHYSICAL EXAM:  
Vitals:  97.8 PO 108 / 64 66 14 99 Ra 
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. No 
oral ulcerations. 
NECK: Supple without LAD  
PULM: CTA b/l without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII grossly intact, motor function grossly normal. 
SKIN: diffuse macular blanching erythematous confluent rash with 
involvement of torso and upper extremities. Resolution of 
involvement of lower extremities, improvement of upper. No 
bruising. 
 
Pertinent Results:
==============
ADMISSION LABS
==============
___ 03:15PM BLOOD WBC-3.0* RBC-4.71 Hgb-15.3 Hct-44.0 
MCV-93 MCH-32.5* MCHC-34.8 RDW-12.6 RDWSD-43.5 Plt Ct-77*
___ 03:15PM BLOOD Glucose-95 UreaN-14 Creat-1.4* Na-130* 
K-3.8 Cl-93* HCO3-22 AnGap-19
___ 03:15PM BLOOD ALT-61* AST-80* AlkPhos-58 TotBili-0.4

==============
PERTINENT LABS
==============
___ 03:25PM BLOOD HBsAg-Negative HBsAb-Negative 
HBcAb-Negative
___ 03:25PM BLOOD HIV Ab-Negative
___ 03:25PM BLOOD HCV Ab-Negative
___ 03:15PM BLOOD ALT-61* AST-80* AlkPhos-58 TotBili-0.4
___ 07:00AM BLOOD ALT-59* AST-66* LD(___)-235 AlkPhos-60 
TotBili-0.2
___ 06:06AM BLOOD ALT-61* AST-60* LD(___)-250 AlkPhos-49 
TotBili-0.3
___ 03:15PM BLOOD Plt Ct-77*
___ 06:06AM BLOOD Plt Ct-90*

============
MICROBIOLOGY
============
___ 3:15 pm SEROLOGY/BLOOD    
   MONOSPOT (Final ___: 
      NEGATIVE by Latex Agglutination. 
           (Reference Range-Negative).

___ 3:15 pm Blood (CMV AB)  
   CMV IgG ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgG ANTIBODY BY EIA. 
      <4 AU/ML. 
      Reference Range:  Negative < 4 AU/ml, Positive >= 6 AU/ml. 


   CMV IgM ANTIBODY (Final ___: 
      NEGATIVE FOR CMV IgM ANTIBODY BY EIA. 
      INTERPRETATION:  NO ANTIBODY DETECTED. 
      Greatly elevated serum protein with IgG levels ___ mg/dl 
may cause 
      interference with CMV IgM results. 

___ 3:15 pm Blood (EBV)      ADD ON. 
   ___ VIRUS VCA-IgG AB (Pending): 
   ___ VIRUS EBNA IgG AB (Pending): 
   ___ VIRUS VCA-IgM AB (Pending): 

___ 10:45 am URINE: NGTD

=======
IMAGING
=======
___ CXR 
No acute cardiopulmonary process. 

==============
DISCHARGE LABS
==============
___ 06:06AM BLOOD WBC-5.4# RBC-4.39* Hgb-14.4 Hct-41.8 
MCV-95 MCH-32.8* MCHC-34.4 RDW-13.1 RDWSD-45.5 Plt Ct-90*
___:00AM BLOOD Neuts-34 Bands-10* ___ Monos-12 
Eos-2 Baso-1 ___ Myelos-0 AbsNeut-1.50* AbsLymp-1.39 
AbsMono-0.41 AbsEos-0.07 AbsBaso-0.03
___ 06:06AM BLOOD Plt Ct-90*
___ 06:06AM BLOOD Glucose-76 UreaN-11 Creat-0.8 Na-137 
K-4.5 Cl-101 HCO3-25 AnGap-___ with history of GERD, recent gluteal abscess who presents 
with several day history of fever, nausea/diarrhea, rash, and 
generalized myalgias. 

#FEVER
#NAUSEA/MYALGIAS: Patient with several day history of 
fever/chills, GI sx, rash, and generalized myalgias. CXR 
negative in the ED. Influenza, monospot negative. EBV/CMV sent 
in the ED and pending at time of discharge. GI symptoms improved 
with Zofran PRN, able to tolerate PO by the time of discharge. 
Well appearing on admission and on discharge. Afebrile during 
hospitalization. Likely in the setting of a viral illness of 
unclear etiology.

#THROMBOCYTOPENIA
#LEUKOPENIA: Improving. He was found to have mild transaminitis, 
leukopenia, and thrombocytopenia which is c/f tick-borne 
illness, although it is early in the season for tick diseases 
and no reported exposures (was in rural area of ___ in 
___. HIV, monosopot, and parasite smear negative. ___ also 
consider Bactrim as potential etiology. ___ also consider HIV, 
mononucleosis, or recent Bactrim as etiology. 

#TRANSAMINITIS: Mild transaminitis. Does binge drink ___ 
drinks/week) but relatively young for ETOH associated. ___ 
consider tick borne illness given associated hematologic 
abnormalities, vs. hepatitis. Hepatitis serologies negative, 
parasite smear negative. 

___: Resolved. On admission with Cr of 1.4, improved with IVF. 
Likely pre-renal given improvement and multiple day history of 
poor PO intake. Able to tolerate PO intake by time of discharge

#RASH: Macular rash, minimally pruritic, non-painful, no 
involvement of mucosa so low concern for EM/SJS. ___ be in the 
setting of viral illness as above or drug rash (recently treated 
with Bactrim) vs. viral exanthema. Did receive prednisone 50 mg, 
Benadryl in the ED. Was seen by dermatology who recommended 
betamethasone ointment if severe itch. Discharged with sarna 
lotion and Benadryl PRN for itch. 

#GLUTEAL ABSCESS: left buttock with abscess s/p I&D and 7 days 
of Bactrim. No current fluctuance/erythema on exam, largely 
resolved. 

TRANSITIONAL ISSUES
===================
[ ] Patient should have repeat LFTs, CBC at PCP follow up 
appointment on ___ to monitor for resolution of symptoms and 
rash
 
Medications on Admission:
None
 
Discharge Medications:
1.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron 4 mg 1 tablet(s) by mouth q8h prn Disp #*10 
Tablet Refills:*0 
2.  Sarna Lotion 1 Appl TP QID:PRN itch 
RX *camphor-menthol [Sarna Anti-Itch] 0.5 %-0.5 % 1 appliccation 
QID PRN Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY
- Fevers
- Transaminitis
- Leukopenia
- Thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted for evaluation of your fevers and laboratory 
abnormalities (elevated liver enzymes, low blood counts, and low 
platelets). You had a thorough workup that was reassuring. Your 
laboratory abnormalities improved. 

If you develop itching at the site of your rash, you can try 
sarna lotion or Benadryl (25 mg, take as directed on the box) as 
needed. 

It is very important that you follow up with your new primary 
care physician below for repeat blood tests to ensure your lab 
tests normalize.

Wishing you well,

Your ___ Care Team 
 
Followup Instructions:
___